US06734183B2
Concentrated hydrochloric acid (1 m) was added to a stirring solution of 2-[2-(1,3-dioxolan-2-yl)-1-methylethyl]-5-fluoropyrimidine (1.1 g) in tetrahydrofuran (10 ml) at ambient temperature, stirred for 3 hours then added solid sodium hydrogen carbonate to neutral pH. The mixture was poured onto a Chemelute carrtridge and washed with ethyl acetate (3×20 ml), the combined organics were dried over Na2SO4 and evaporated in vacuo to afford 3-(5-fluoropyrimidin-2-yl)butanal (300 mg, 35%) which was used without further purification.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-[2-(1,3-dioxolan-2-yl)-1-methylethyl]-5-fluoropyrimidine | 1.1 g | O1C(OCC1)CC(C)C1=NC=C(C=N1)F | C10H13FN2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(5-fluoropyrimidin-2-yl)butanal | 300 mg, 35% | FC=1C=NC(=NC1)C(CC=O)C | C8H9FN2O
